### PR TITLE
feat(RingTheory/Ideal/Norm/RelNorm): drop the `PerfectField` hypothesis of `absNorm_relNorm`

### PR DESCRIPTION
**Pull request by xroblot**
The section already assumes `R` is free as a `ℤ`-module, so it has characteristic zero and the hypothesis holds for free.

Prepared with Claude Code 🤖

---

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 1]
```diff
@@ -474,6 +474,9 @@ theorem absNorm_relNorm [PerfectField (FractionRing R)] (I : Ideal S) :
     let P := under R Q
     let p := absNorm (under ℤ P)
     have : Q.LiesOver (span {(p : ℤ)}) := LiesOver.trans Q P _
+    have : IsAddTorsionFree R :=
+      isTorsionFree_int_iff_isAddTorsionFree.mp <| FaithfulSMul.to_isTorsionFree ℤ R
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean:478]: Does `IsAddTorsionFree.of_isTorsionFree` work here?

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Norm/RelNorm.lean]: It does. Thanks!

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 2]
```diff
@@ -474,6 +474,8 @@ theorem absNorm_relNorm [PerfectField (FractionRing R)] (I : Ideal S) :
     let P := under R Q
     let p := absNorm (under ℤ P)
     have : Q.LiesOver (span {(p : ℤ)}) := LiesOver.trans Q P _
+    have : IsAddTorsionFree R := .of_isTorsionFree ℤ _
+    have : CharZero R := CharZero.of_isAddTorsionFree R R
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean]: Both these can be instances I think (I mean, the specific version used here). Can you try and bench?

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Norm/RelNorm.lean]: I'll do some testings

**Comment by xroblot** [comment]
!radar

**Comment by leanprover-radar** [comment]
Benchmarking 17299d6b33a22609a272f8b06d7e2ee0a3edd1ec against cbceb349108564dac18fca83cac4a0978cf3896b ([preliminary results](https://radar.lean-lang.org/repos/mathlib4/commits/17299d6b33a22609a272f8b06d7e2ee0a3edd1ec?reference=cbceb349108564dac18fca83cac4a0978cf3896b)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>
